Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
neck pain
 
Major Surgical or Invasive Procedure:
C5-6 laminectomy and resection of extramedullary intradural 
tumor

 
History of Present Illness:
patient complained of neck pain and MRI was done which showed 
intradural mass. Subsequently the patient was scheduled for 
surgery for ___ with Dr. ___. In the interim prior to 
presenting electively today, ___, for surgery he had 
complaints of neck pain and left hand numbness which required a 
visit to the emergency room for which he was given more pain 
medication
 
Past Medical History:
amputated R hand with subsequent reattachemtn s/p bakery 
accident ___, Feel 40 feet with injuries to liver, stomach, and 
pancreas requiring ex-lap ___
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
On Discharge:
strength ___ RUE secondary to previous injury and cant close 
right fist completely, o/w full strength. sensation decreased 
RUE due to injury o/w intact. 2 beats clonus bilaterally, 
dressing c/d/i. Some deconditioning noted on LUE- tricep -5, 
deltoids bil ___

 
Pertinent Results:
___ CXR:
FINDINGS: No previous images. The heart is normal in size and 
there is no 
vascular congestion or pleural effusion. There is an area of 
increased 
opacification adjacent to the right heart border. Although this 
may merely 
represent fibrosis or atelectasis, the possibility of 
superimposed 
consolidation cannot be definitely excluded. 

___ CXR:
IMPRESSION: 
Left upper lobe and left lower lobe opacities which are new 
findings since 
___ study. Given the rapid development of the 
findings, 
aspiration is strongly considered. 
Right middle lobe atelectasis, stable in appearance. 

___ 04:30AM BLOOD WBC-12.7* RBC-3.95* Hgb-11.8* Hct-34.3* 
MCV-87 MCH-30.0 MCHC-34.5 RDW-13.8 Plt ___
___ 10:20AM BLOOD WBC-7.2 RBC-3.55* Hgb-10.5* Hct-31.0* 
MCV-87 MCH-29.6 MCHC-33.9 RDW-12.9 Plt ___
___ 06:00AM BLOOD WBC-6.5 RBC-3.43* Hgb-10.0* Hct-29.4* 
MCV-86 MCH-29.3 MCHC-34.2 RDW-12.8 Plt ___
___ 04:30AM BLOOD Plt ___
___ 10:20AM BLOOD Plt ___
___ 06:00AM BLOOD Plt ___
___ 04:30AM BLOOD Glucose-105* UreaN-8 Creat-0.8 Na-139 
K-3.8 Cl-100 HCO3-29 AnGap-14
___ 10:20AM BLOOD Glucose-136* UreaN-14 Creat-0.7 Na-140 
K-4.0 Cl-102 HCO3-30 AnGap-12
 
Brief Hospital Course:
Patient presented electively on ___ for C5-6 laminectomy and 
resection of extramedullary intradural mass with Dr. ___. He 
tolerated the procedure well, was extubated in the operating rom 
and was trasnferred to the PACU for observation.  He ramined 
stable and at post-op check he was full strength with the 
exception of his RUE which showed minor ___ weakness which was 
baseline from a prior injury in ___ where he right hand was 
amputated and subsequently re-attached. He also had decreased 
sensation in the RUE as a result of the same injury. 

Post-operatively patient was resistant to ambulating, increasing 
activity, and using his IS. Patient was eating meals with HOB 
flat. He required O2 on ___ and a CXR was done on ___ and ___ 
(results above). A bedside swallow was done on ___ which showed 
no aspiration. He was off O2 on ___ and appeared improved with 
the use of his IS and HOB strictly > 45 when awake and 90 for 
meals. 

Foley: Failed voiding trials x 2. Foley removed ___, replaced 
___ and removed again on ___, replaced ___. Flomax started on 
___. Foley kept in.

Pain: MS ___ 30mg TID, Dilaudid ___ PO Q3 hrs. Soft collar 
for comfort. 

 
Medications on Admission:
PErcocet, Valium, Vicodin, Ultram
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
4. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
5. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
6. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
7. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.  
8. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q8H (every 8 hours).  
9. Tizanidine 2 mg Tablet Sig: ___ Tablets PO TID (3 times a 
day) as needed for spasm.  
10. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
11. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
12. HYDROmorphone (Dilaudid) 0.5-1 mg IV Q2H:PRN breakthrough 
pain > 7 
13. Ondansetron 4 mg IV Q8H:PRN nausea 
14. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for wheeze.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
extramedullary intradural tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
•Do not smoke.
•Keep your wound clean/ No tub baths or pool swimming for two 
weeks from your date of surgery. You may remove your dressing on 
___ and you may shower on ___
•If you have steri-strips in place, you must keep them dry for 
72 hours.  Do not pull them off. They will fall off on their own 
or be taken off in the office.  You may trim the edges if they 
begin to curl.
•No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
•Limit your use of stairs to ___ times per day.
•Have a friend or family member check your incision daily for 
signs of infection.
•Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort.
•Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.
CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:
•Pain that is continually increasing or not relieved by pain 
medicine.
•Any weakness, numbness, tingling in your extremities.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, and drainage.
•Fever greater than or equal to 101° F. 
•Any change in your bowel or bladder habits (such as loss of 
bowl or urine control). 
•Please stay out of work until your follow-up appointment. At 
that time Dr. ___ make further recommendations.

 
Followup Instructions:
___